US04720500
The procedure is analogous to that described in Example 1, but starting with benzoic acid (6.5 g), N,N'-carbonyldiimidazole (8.6 g) and 2-amino-7-(1-pyrrolidinyl)-1,8-naphthyridine (8.6 g). The product obtained by precipitation in water (13 g; m.p. 110° C.) is dissolved in boiling acetonitrile (85 cc). After cooling for 2 hours at 4° C., the crystallized solid is separated by filtration, washed with acetonitrile (15 cc) and dried at 40° C. under reduced pressure (0.07 kPa). N-[7-(1-Pyrrolidinyl)-1,8-naphthyridin-2-yl]benzamide (11.5 g), m.p. 130° C., is obtained.

reactant | benzoic acid | 6.5 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2-amino-7-(1-pyrrolidinyl)-1,8-naphthyridine | 8.6 g | NC1=NC2=NC(=CC=C2C=C1)N1CCCC1 | C12H14N4
reactant | acetonitrile | 85 cc | C(C)#N | C2H3N
solvent | water | 13 g | O | H2O
product | N-[7-(1-Pyrrolidinyl)-1,8-naphthyridin-2-yl]benzamide | 11.5 g | N1(CCCC1)C1=CC=C2C=CC(=NC2=N1)NC(C1=CC=CC=C1)=O | C19H18N4O
